US06468979B1
Preparation of [2,4′]bithiazolyl-2′-carbaldehyde (Intermediate C)
A mixture of [2,4′]bithiazol-2′-ylmethanol (1.53 g; 7.72 mmol), obtained as described in the above step, and MnO2 (13.93 g; 160.2 mmol) in CH2Cl2 (76.5 ml) and methanol (7.65 ml) was stirred at room temperature for about 23 hours.

reactant | [2,4′]bithiazol-2′-ylmethanol | 7.72 mmol, 1.53 g | S1C(=NC=C1)C=1N=C(SC1)CO | C7H6N2OS2
solvent | CH2Cl2 | 76.5 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 7.65 ml | CO | CH4O
catalyst | MnO2 | 160.2 mmol, 13.93 g | O=[Mn]=O
product | [2,4′]bithiazolyl-2′-carbaldehyde | S1C(=NC=C1)C=1N=C(SC1)C=O | C7H4N2OS2
